US07138393B2
1-(4–Carboxy-3-chlorophenyl)-1H-pyrazole-3-carboxylic acid
A vigorously stirred solution of 2-chloro-4-(3-methyl-1 H-pyrazol-1-yl)benzoic acid (7.08 g, 30.0 mmol) and 1 N potassium hydroxide (30 mL, 30.0 mmol) in water (200 mL) was heated to between 60–65° C. and treated gradually over ninety minutes with several aliquots of solid potassium permanganate (Total: 49.78 g, 315 mmol, 5.25 equivalents). The mixture was heated for an additional 2.5 hours (4 hours total). After cooling to room temperature, the mixture was filtered and evaporated to a residue. The residue was dissolved in 2 N hydrochloric acid and extracted with ethyl acetate (3×). The combined organic phase was washed with water, dried over anhydrous sodium sulfate, filtered, and the solvent removed in vacuo to yield, after crystallization from a mixture of ethyl acetate-diethyl ether-hexane, the title compound (1.27 g, 4.8 mmol, 16%) as a homogeneous solid, m.p. 260–263° C.;

reactant | 2-chloro-4-(3-methyl-1 H-pyrazol-1-yl)benzoic acid | 30.0 mmol, 7.08 g | ClC1=C(C(=O)O)C=CC(=C1)N1N=C(C=C1)C | C11H9ClN2O2
reactant | potassium hydroxide | 30.0 mmol, 1 N, 30 mL | [OH-].[K+]
reactant | potassium permanganate | 315 mmol, 49.78 g, 5.25 equivalents | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | water | 200 mL | O | H2O
product | 1-(4–Carboxy-3-chlorophenyl)-1H-pyrazole-3-carboxylic acid | 4.8 mmol, 1.27 g, 16% | C(=O)(O)C1=C(C=C(C=C1)N1N=C(C=C1)C(=O)O)Cl | C11H7ClN2O4
